US04439617
A mixture of 5-iodo-1-naphthalenecarboxylic acid methyl ester [8.8 g, 28 mmoles, described by C. Seer and R. School, Justus Leibigs Ann. Chem., 398, 82 (1913)], trifluoromethyl iodide (12 g, 61.2 mmoles) freshly prepared copper powder (5.7 g, prepared according to the procedure of R. Q. Brewster and T. Groening, "Organic Syntheses", Coll. Vol. II, John Wiley and Sons, New York, N.Y., U.S.A., 1948, p. 445) and pyridine (45 ml) was charged into a stainless steel autoclave. The vessel was shaken and heated at 130° C. for 24 hr and cooled to room temperature. The mixture was filtered to remove insoluble material. The filtrate was washed with 1 N aqueous HCl, water and brine, dried (MgSO4) and concentrated to dryness. The residue was crystallized from methanol to give 4.3 g of 5-(trifluoromethyl)-1-naphthalenecarboxylic acid methyl ester, NMR (CDCl3) δ4.0 (s, 3H), 8.0 (m, 6H).

reactant | 5-iodo-1-naphthalenecarboxylic acid methyl ester | 28 mmoles, 8.8 g | COC(=O)C1=CC=CC2=C(C=CC=C12)I | C12H9IO2
reactant | trifluoromethyl iodide | 61.2 mmoles, 12 g | FC(F)(F)I | CF3I
catalyst | copper | [Cu] | Cu
solvent | pyridine | 45 ml | N1=CC=CC=C1 | C5H5N
product | 5-(trifluoromethyl)-1-naphthalenecarboxylic acid methyl ester | 4.3 g | COC(=O)C1=CC=CC2=C(C=CC=C12)C(F)(F)F | C13H9F3O2
